US05654307
NEt3 (6 mL, 43 mmol) is added to a solution of 7-amino-4-thiono-3H-pyrido[4,3-d]pyrimidine (0.77 g, 4.3 mmol) in DMSO (7 mL) stirred under N2 at 25° C. After the two phases have been stirred for 20 min, MeI (0.26 mL, 4.2 mmol) is added. After 2 h, the reaction mixture is poured onto stirring ice-water. Solid forms instantly. After further cooling at 0° C., the solid is collected by suction filtration and dried in a vacuum oven to give 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (0.564 g, 68%). 1H NMR (DMSO) δ 8.98 (1H, s), 8.71 (1H, s), 6.94 (2H, brs), 6.49 (1H, s) 2.63 (3H, s).

reactant | NEt3 | 43 mmol, 6 mL | CCN(CC)CC | C6H15N
reactant | 7-amino-4-thiono-3H-pyrido[4,3-d]pyrimidine | 4.3 mmol, 0.77 g | NC1=CC=2N=CNC(C2C=N1)=S | C7H6N4S
reactant | MeI | 4.2 mmol, 0.26 mL | CI | CH3I
solvent | DMSO | 7 mL | CS(=O)C | C2H6OS
product | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 0.564 g, 68% | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
